US07932399B2
5,6-Dichloro-1-pyridin-2-ylmethyl-2-(2-trifluoromethyl-[1,3]dioxin-2-yl)-1H-benzimidazole (#48)
5,6-Dichloro-2-(2-trifluoromethyl-[1,3]dioxolan-2-yl)-1H-benzimidazole (0.37 g; 1.1 mmol) was dissolved in DMF (6 mL), treated with 60% NaH in mineral oil 9.14 g; 3.5 mmol) and stirred under a nitrogen atmosphere for 20 minutes. Subsequently, 2-(Bromomethyl)pyridine hydrobromide (0.44 g; 1.7 mmol) was added to the reaction mixture and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate (25 mL) and diethyl ether (25 mL), washed with water (30 mL) and brine (3×30 mL), then dried over Na2SO4. The concentrated crude material was purified by column chromatography (SiO2; 50% ethyl acetate/hexanes) to yield the title compound as an off-white solid.

reactant | 5,6-Dichloro-2-(2-trifluoromethyl-[1,3]dioxolan-2-yl)-1H-benzimidazole | 1.1 mmol, 0.37 g | ClC1=CC2=C(NC(=N2)C2(OCCO2)C(F)(F)F)C=C1Cl | C11H7Cl2F3N2O2
reactant | NaH | [H-].[Na+]
reactant | 2-(Bromomethyl)pyridine hydrobromide | 1.7 mmol, 0.44 g | Br.BrCC1=NC=CC=C1
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 5,6-Dichloro-1-pyridin-2-ylmethyl-2-(2-trifluoromethyl-[1,3]dioxin-2-yl)-1H-benzimidazole | ClC1=CC2=C(N(C(=N2)C2(OC=CCO2)C(F)(F)F)CC2=NC=CC=C2)C=C1Cl | C18H12Cl2F3N3O2
